### PR TITLE
feat(HermitianMat/Proj): add projector positivity, kernel, and posPart=0 lemmas

### PR DESCRIPTION
**Pull request by dennj**
proof wanted to theorem

### CODE REVIEW

File: QuantumInfo/ForMathlib/HermitianMat/Proj.lean [hunk 1]
```diff
@@ -8,6 +8,7 @@ module
 public import QuantumInfo.ForMathlib.HermitianMat.CFC
```
Comment (jstoobysmith) [inline QuantumInfo/ForMathlib/HermitianMat/Proj.lean:9]: I think this file should be named “Projector”. If easy could we change it? No worries if not.

File: QuantumInfo/ForMathlib/HermitianMat/Proj.lean [hunk 2]
```diff
@@ -56,6 +57,26 @@ theorem projector_add_orthogonal : projector S + projector Sᗮ = 1 := by
   erw [ Subtype.mk_eq_mk ];
   ext i j; simp [ LinearMap.toMatrix_apply, Matrix.one_apply ] ;
 
+theorem projector_nonneg : 0 ≤ projector S := by
```
Comment (jstoobysmith) [inline QuantumInfo/ForMathlib/HermitianMat/Proj.lean:60]: Most of the QuantumInfo “theorem” will eventually be changed to “lemma” could we use “lemma” here and throughout the changes

**Review by jstoobysmith — COMMENTED** [review]
Couple of small comments - otherwise this looks good

**Review by jstoobysmith — APPROVED** [review]
Let me actually approve this one, as my comments can be left to a future PR. I think this is undeniably an improvement, and therefore should be merged. I will do so shortly.
